US04959366
(C) N,N-Bis-(4-aminophenethyl)ethylamine
N,N-Bis-(4-nitrophenethyl)ethylamine (0.45 g) was reduced using H2 /Pd/C in a similar fashion to Example 23(B) to provide the title compound, yield 0.32 g.

reactant | N,N-Bis-(4-nitrophenethyl)ethylamine | 0.45 g | [N+](=O)([O-])C1=CC=C(CCN(CCC2=CC=C(C=C2)[N+](=O)[O-])CC)C=C1 | C18H21N3O4
catalyst | H2 Pd/C | [H][H].[Pd]
product | N,N-Bis-(4-aminophenethyl)ethylamine | NC1=CC=C(CCN(CCC2=CC=C(C=C2)N)CC)C=C1 | C18H25N3
